US07446216B2
N,N-bis(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)-N-(4-methylphenyl)amine
Under an argon atmosphere, a mixture of 12.1 g (50.0 mmol) of 4-bromo-1-methoxy-2-methylindane, 2.68 g (25.0 mmol) of para-toluidine, 16.8 g (150 mmol) of potassium tert-butoxide, 575 mg (1.0 mmol) of Pd(dba)2, 404 mg (2.0 mmol) of tris(tert-butyl)phosphine, and 300 ml of toluene were refluxed for 9 hours. Then, this mixture was evaporated to dryness. The product was isolated using flash chromatography on Silica Gel 60 (40-63 μm, d 50 mm, l 500 mm; eluent: dichloromethane). Yield 7.92 g (74%) of yellow oil of a mixture of isomeric compounds.

reactant | 4-bromo-1-methoxy-2-methylindane | 50.0 mmol, 12.1 g | BrC1=C2CC(C(C2=CC=C1)OC)C | C11H13BrO
reactant | para-toluidine | 25.0 mmol, 2.68 g | NC1=CC=C(C=C1)C | C7H9N
reactant | potassium tert-butoxide | 150 mmol, 16.8 g | CC(C)([O-])C.[K+]
reactant | tris(tert-butyl)phosphine | 2.0 mmol, 404 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dba)2 | 1.0 mmol, 575 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | N,N-bis(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)-N-(4-methylphenyl)amine | COC1C(CC2=C(C=CC=C12)N(C1=CC=C(C=C1)C)C1=C2CC(C(C2=CC=C1)OC)C)C | C29H33NO2
